US05559113
2-{[2-(1H-Imidazol-4-yl)ethyl]amino}pyrazine
1 g (8.9 mmol) of histamine and 1.03 g (8.9 mmol) of 2-chloropyrazine are brought to reflux in 20 ml of 2-propanol for 72 h, evaporated and the crude solid residue is chromatographed through silica gel, using chloroform/methanol mixtures (1%, 5%, 10% and 20% respectively). The product is converted to the dioxalate in absolute ethanol and addition of ether gives the title compound which is recrystallized from a 2-propanol/diethyl ether mixture in the form of a white solid.

reactant | histamine | 8.9 mmol, 1 g | NCCC1=CNC=N1 | C5H9N3
reactant | 2-chloropyrazine | 8.9 mmol, 1.03 g | ClC1=NC=CN=C1 | C4H3ClN2
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 2-{[2-(1H-Imidazol-4-yl)ethyl]amino}pyrazine | N1C=NC(=C1)CCNC1=NC=CN=C1 | C9H11N5
